US06392059B1
To 1.88 g(8.38 mmol) of (3S,3aS,4R,4aS,8aR,9aS)-4-hydroxy-3-methyl-decahydronaphtho[2,3-c]furan-1(3H)-one in 200 ml of dehydrated ether solution were added dropwise 26.7 ml(3 equivalents) of diisobutylalumium hydride-hexane solution(0.94 M) at −78° C. under an atmosphere of argon. After stirring for about 1 hour at the same temperature, methanol-water mixed solution (10 ml+10 ml) was added dropwise slowly and the mixture was stirred for 1 hour at room temperature. Solvent was distilled off and 100 ml of ethyl acetate were added to the residue, which was filtered through celite, and the residue was washed with ethyl acetate(50 ml). Solvent was distilled off and 100 ml of saturated brine were added, which was extracted with methylene chloride(30 ml×3). The organic layer was dried over anhydrous magnesium sulfate, filtered and solvent was distilled off to obtain crude lactol form. This was dissolved into a mixed solution of 50 ml of dehydrated methanol with 50 ml of dehydrated methylene chloride, 1.55 ml(1.5 equivalents) of boron trifluoride-diethyl ether complex were added dropwise at −60° C. under an atmosphere of argon, and the mixture was stirred for about 12 hours while raising temperature naturally. To the reaction mixture were added 1.75 ml (1.5 equivalents) of triethylamine and, after stirring at room temperature, solvent was distilled of. To the residue was added 100 ml of cold dilute aqueous solution of sodium hydrogencarbonate, which was extracted with methylene chloride(30 ml×3). The organic layer was dried over anhydrous magnesium sulfate, filtered and solvent was distilled off. The residue was purified by means of silica gel column chromatography(hexane:ethyl acetate=2:1) to obtain 1.50 g of (1S,3S,3aS,4R,4aS,8aR,9aS)-4-hydroxy-1-methoxy-3-methyl-dodecahydronaphtho[2,3-c]furan (yield after two processes 74%).

reactant | (3S,3aS,4R,4aS,8aR,9aS)-4-hydroxy-3-methyl-decahydronaphtho[2,3-c]furan-1(3H)-one | 8.38 mmol, 1.88 g | O[C@@H]1[C@H]2CCCC[C@@H]2C[C@@H]2C(O[C@H]([C@@H]21)C)=O | C13H20O3
reactant | hydride hexane | 0.94 M, 26.7 ml, 3 equivalents | [H-].CCCCCC
reactant | methanol water | 10 ml | CO.O
reactant | triethylamine | 1.75 ml, 1.5 equivalents | C(C)N(CC)CC | C6H15N
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 50 ml | CO | CH4O
product | (1S,3S,3aS,4R,4aS,8aR,9aS)-4-hydroxy-1-methoxy-3-methyl-dodecahydronaphtho[2,3-c]furan | 1.50 g, 74% | O[C@@H]1[C@H]2CCCC[C@@H]2C[C@@H]2[C@H](O[C@H]([C@@H]21)C)OC | C14H24O3
